US09278950B2
Step 2. Benzyl {(3S)-1-[3-({[3-{[(benzyloxy)carbonyl]amino}-7-(cyanomethyl)quinolin-2-yl]carbonyl}amino)pyridin-4-yl]piperidin-3-yl}carbamate
To a mixture of 3-{[(benzyloxy)carbonyl]amino}-7-(cyanomethyl)quinoline-2-carboxylic acid (46.2 mg, 0.128 mmol), benzyl [(3S)-1-(3-aminopyridin-4-yl)piperidin-3-yl]carbamate (46.6 mg, 0.143 mmol) and HATU (153.3 mg, 0.4032 mmol), DMF (2.00 mL) was added, followed by DIPEA (181.8 mg, 1.406 mmol). The reaction mixture was stirred at room temperature for 15 h, and was then concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel (0-10% MeOH in DCM) to give the sub-title compound as a brown solid (65.8 mg, 77%). LCMS calc. for C38H36N7O5 (M+H)+: m/z=670.3. found 670.3.

reactant | 3-{[(benzyloxy)carbonyl]amino}-7-(cyanomethyl)quinoline-2-carboxylic acid | 0.128 mmol, 46.2 mg | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)CC#N)C(=O)O | C20H15N3O4
reactant | benzyl [(3S)-1-(3-aminopyridin-4-yl)piperidin-3-yl]carbamate | 0.143 mmol, 46.6 mg | NC=1C=NC=CC1N1C[C@H](CCC1)NC(OCC1=CC=CC=C1)=O | C18H22N4O2
reactant | HATU | 0.4032 mmol, 153.3 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 1.406 mmol, 181.8 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2.00 mL | CN(C)C=O | C3H7NO
product | Benzyl {(3S)-1-[3-({[3-{[(benzyloxy)carbonyl]amino}-7-(cyanomethyl)quinolin-2-yl]carbonyl}amino)pyridin-4-yl]piperidin-3-yl}carbamate | 65.8 mg, 77% | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)CC#N)C(=O)NC=1C=NC=CC1N1C[C@H](CCC1)NC(OCC1=CC=CC=C1)=O | C38H35N7O5
